US06294674B1
(S)-2-(Dibenzofuran-2-sulfonylamino)-4-phenyl-butyric acid
To a THF/water (5:3, 8 mL) solution of (S)α-amino4-phenyl-butyric acid (0.61 g, 0.0034 mol) and triethylamine (1 mL) at 10° C. was added dibenzofuran-2-sulfonyl chloride (1.0 g, 0.00375 mol) in one portion with stirring. The resulting solution was stirred at room temperature for 24 hours. The solution was then concentrated in vacuo and the residue redissolved in water (10 mL). This solution was cooled in an ice bath and then acidified with 1N HCl. An oil was deposited, which was then triturated with ethyl acetate and hexane to give the title product (0.54 g, 35%), Melting point=130-132° C.

reactant | THF water | 8 mL | C1CCOC1.O
reactant | (S)α-amino4-phenyl-butyric acid | 0.0034 mol, 0.61 g | N[C@H](C(=O)O)CCC1=CC=CC=C1 | C10H13NO2
reactant | dibenzofuran-2-sulfonyl chloride | 0.00375 mol, 1.0 g | C1=C(C=CC=2OC3=C(C21)C=CC=C3)S(=O)(=O)Cl | C12H7ClO3S
solvent | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
product | (S)-2-(Dibenzofuran-2-sulfonylamino)-4-phenyl-butyric acid | 0.54 g, 35% | C1=C(C=CC=2OC3=C(C21)C=CC=C3)S(=O)(=O)N[C@H](C(=O)O)CCC3=CC=CC=C3 | C22H19NO5S
